US07517905B2
Preparation of N-[(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl carbamoyl]-methyl]-3(-2-methoxy-5-methylphenyl)-3-phenyl propionamide (Compound No. 10)
The compound, 3-(2-methoxy-5-methylphenyl)-3-phenyl propionic acid (209 mg, 0.77 mmole, 1 eq) and 2-amino-N-(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)-acetamide, 0.77 mmole, 1 eq (prepared by reacting t-butoxy carbonyl amino-acetic acid with 3-benzyl-3-azabicylo[3.1.0]hex-6-yl amine, which in turn, was prepared following the procedure of T. F. Braish et al., Synlett 1996, 1100) were dissolved in dimethylformamide (5 ml). The reaction mixture was cooled to 0° C. with subsequent addition of N-methyl morpholine (0.13 ml) and 1-hydroxy benzotriazole, HOBT (105 mg). The resulting mixture was diluted with water and extracted the organic compound with ethyl acetate. The solvent was removed under reduced pressure. The crude organic compound thus obtained was purified by column chromatography using 80% ethyl acetate in hexane. Yield=367 mg.

reactant | 3-(2-methoxy-5-methylphenyl)-3-phenyl propionic acid | 0.77 mmole, 209 mg, 1 eq | COC1=C(C=C(C=C1)C)C(CC(=O)O)C1=CC=CC=C1 | C17H18O3
reactant | 2-amino-N-(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)-acetamide | NCC(=O)NC1C2CN(CC12)CC1=CC=CC=C1 | C14H19N3O
reactant | t-butoxy carbonyl amino-acetic acid | C(C)(C)(C)OC(=O)C(C(=O)O)N | C7H13NO4
reactant | 3-benzyl-3-azabicylo[3.1.0]hex-6-yl amine | C(C1=CC=CC=C1)N1CC2C(C2C1)N | C12H16N2
reactant | N-methyl morpholine | 0.13 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy benzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | HOBT | 105 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl carbamoyl]-methyl]-3(-2-methoxy-5-methylphenyl)-3-phenyl propionamide | C(C1=CC=CC=C1)N1CC2C(C2C1)NC(=O)CNC(CC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OC)=O | C31H35N3O3
